US05814653
Ethyl 6-benzyloxy-3-carboxy-1,2,3,4-tetrahydro-9H-carbazole
To a suspension of 3.107 gm (8.9 mMol) ethyl 6-benzyloxy-3-carboxy-6-benzyloxy-1,2,3,4-tetrahydro-9H-carbazole in 100 mL 2N sodium hydroxide were added 100 mL methanol and the reaction mixture stirred at reflux for 3.5 hours. The reaction mixture was concentrated to about half volume and the pH adjusted to between 5 and 7 by the addition of concentrated hydrochloric acid. The mixture was extracted well with 4:1 dichloromethane:isopropanol. The organic phases were combined, dried over sodium sulfate and concentrated under reduced pressure to give 2.71 gm (95%) of the title compound.

reactant | ethyl 6-benzyloxy-3-carboxy-6-benzyloxy-1,2,3,4-tetrahydro-9H-carbazole | 8.9 mMol, 3.107 gm | C(C)C1CC(CC=2C=3CC(C=CC3NC12)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(=O)O | C29H31NO4
reactant | methanol | 100 mL | CO | CH4O
solvent | sodium hydroxide | 2N, 100 mL | [OH-].[Na+]
product | Ethyl 6-benzyloxy-3-carboxy-1,2,3,4-tetrahydro-9H-carbazole | 2.71 gm, 95% | C(C)C1CC(CC=2C3=CC(=CC=C3NC12)OCC1=CC=CC=C1)C(=O)O | C22H23NO3
